US08058441B2
(a). 1-Acetyl-6-(2-methoxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (0.60 g) with 2-methoxybenzoyl chloride (1.0 g) and N,N-diisopropylethylamine (1.7 ml) in tetrahydrofuran (60 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 0.60 g | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 2-methoxybenzoyl chloride | 1.0 g | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | N,N-diisopropylethylamine | 1.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(2-methoxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC=C1)OC)=O)(C)C1=CC=CC=C1)(C)C | C28H30N2O3
